US04032322
A solution of 25 g of 5-amino-4-cyano-3-(1,1-dimethylbutyl)isothiazole and 35.6 g of triethyl orthoformate in 200 ml of dioxane was heated under reflux for two hours. To the solution was added 24.5 g of acetic anhydride and the mixture was heated under reflux an additional 20 hours. The mixture wss concentrated under reduced pressure and the residue was distilled in a short path still at 120° under 0.1 mm Hg to give 31.8 g of 4-cyano-3-(1,1-dimethylbutyl)-5-[N-(ethoxymethylene)amino] isothiazole which was dissolved in 125 ml of ethanol, without further purification. The ethanolic solution was placed in a flask equipped with a gas inlet tube and one outlet of which was closed by a small rubber balloon. Dimethylamine gas was passed into the solution until the balloon remained inflated; during the introduction of dimethylamine, the temperature of the mixture increased to 60°. The reaction mixture was concentrated under reduced pressure. The residue was recrystallized from a mixture of diethyl ether (90 parts) and pentane (10 parts) at low temperature to give 26.5 g of N'-[4-cyano-3-(1,1-dimethylbutyl)-5-isothiazolyl]-N,N-dimethylformamidine, m.p. 65°-67°. The nmr spectrum was consistent with the assigned structure.

reactant | 5-amino-4-cyano-3-(1,1-dimethylbutyl)isothiazole | 25 g | NC1=C(C(=NS1)C(CCC)(C)C)C#N | C10H15N3S
reactant | triethyl orthoformate | 35.6 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 24.5 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 4-cyano-3-(1,1-dimethylbutyl)-5-[N-(ethoxymethylene)amino] isothiazole | 31.8 g | C(#N)C=1C(=NSC1N=COCC)C(CCC)(C)C | C13H19N3OS
